US07501412B2
After the completion of the dropwise addition, the mixture was stirred at room temperature for 4 hrs and ice-cooled. Aluminum chloride (13.6 g) was added to the reaction mixture, and the mixture was stirred overnight at room temperature. After the completion of the reaction, the reaction mixture was poured into ice-water, and potassium carbonate was added to alkalify the reaction mixture. An excess amount of ethyl chloroformate was added to the reaction mixture, and the mixture was stirred at room temperature. The insoluble material was remove by filtration, and the aqueous layer was extracted with chloroform. The organic layer was dried over magnesium sulfate, and the solvent was evaporated to give a mixture of 1-(1-ethoxycarbonylpiperidin-4-yl)-3-methyl-pyrazolo[3,4-c]isoquinolin-5(4H)-one and 4-ethoxycarbonyl-1-(1-ethoxycarbonylpiperidin-4-yl)-3-methyl-pyrazolo[3,4-c]isoquinolin-5-one as solid. Further purification was not performed and the mixture was used in the next reaction. The total amount of the above-mentioned mixture was dissolved in acetic acid (100 mL) and concentrated hydrochloric acid (100 mL), and the mixture was heated under reflux for 24 hrs. After the completion of the reaction, the solvent was evaporated, and the precipitated crystals were collected by filtration to give 1-(piperidin-4-yl)-3-methyl-pyrazolo[3,4-c]isoquinolin-5(4H)-one hydrochloride (3.7 g).

reactant | Aluminum chloride | 13.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | 1-(1-ethoxycarbonylpiperidin-4-yl)-3-methyl-pyrazolo[3,4-c]isoquinolin-5(4H)-one | C(C)OC(=O)N1CCC(CC1)C1=NN(C=2NC(C=3C=CC=CC3C21)=O)C | C19H22N4O3
reactant | 4-ethoxycarbonyl-1-(1-ethoxycarbonylpiperidin-4-yl)-3-methyl-pyrazolo[3,4-c]isoquinolin-5-one | C(C)OC(=O)N1C(C=2C=CC=CC2C2=C1N(N=C2C2CCN(CC2)C(=O)OCC)C)=O | C22H26N4O5
reactant | hydrochloric acid | 100 mL | Cl | ClH
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 1-(piperidin-4-yl)-3-methyl-pyrazolo[3,4-c]isoquinolin-5(4H)-one hydrochloride | 3.7 g | Cl.N1CCC(CC1)C1=NN(C=2NC(C=3C=CC=CC3C21)=O)C | InChI=1S/C16H18N4O.ClH/c1-20-15-13(14(19-20)10-6-8-17-9-7-10)11-4-2-3-5-12(11)16(21)18-15;/h2-5,10,17H,6-9H2,1H3,(H,18,21);1H
